US08314138B2
Synthesis of 2-[1-(3-fluoro-benzyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide
The title compound was prepared from 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide and 1-bromomethyl-3-fluoro-benzene as described in Example 49 and isolated as white solid (0.068 mg, 49% yield). 1H NMR (400 MHz, CDCl3) δ 8.61 (s, 1H), 8.56 (d, J=4 Hz, 1H), 7.71 (d, J=8 Hz, 1H), 7.42 (d, J=2 Hz, 1H), 7.26-7.35 (m, 2H), 6.99-7.06 (m, 2H), 6.93 (d, J=8 Hz, 1H), 6.86 (d, J=2 Hz, 1H), 6.05-6.13 (m, 1H), 5.35 (s, 2H), 4.63 (d, J=8 Hz, 2H), 2.75 (s, 3H); MS (M+H)+=408.2; Rt=1.25 min; HRMS (M+H)+=408.13.

reactant | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C=1NN=CC1)C | C14H13N5OS
reactant | 1-bromomethyl-3-fluoro-benzene | BrCC1=CC(=CC=C1)F | C7H6BrF
product | 2-[1-(3-fluoro-benzyl)-1H-pyrazol-3-yl]-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C1=NN(C=C1)CC1=CC(=CC=C1)F)C | C21H18FN5OS
